### PR TITLE
[Merged by Bors] - feature(Algebra/Ring/Idempotents): product of an idempotent and its complement

### PR DESCRIPTION
**Pull request by mans0954**
Add a couple of simp lemmas. In a ring, the product of an idempotent and its complement is zero.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Idempotents.lean [hunk 1]
```diff
@@ -67,6 +67,14 @@ theorem one_sub {p : R} (h : IsIdempotentElem p) : IsIdempotentElem (1 - p) := b
 theorem one_sub_iff {p : R} : IsIdempotentElem (1 - p) ↔ IsIdempotentElem p :=
   ⟨fun h => sub_sub_cancel 1 p ▸ h.one_sub, IsIdempotentElem.one_sub⟩
 
+@[simp]
+theorem mul_one_sub_self {p : R} (h : IsIdempotentElem p )  : p * (1 - p) = 0 := by
```
Comment (loefflerd) [inline Mathlib/Algebra/Ring/Idempotents.lean:71]: spacing:
```suggestion
theorem mul_one_sub_self {p : R} (h : IsIdempotentElem p) : p * (1 - p) = 0 := by
```

File: Mathlib/Algebra/Ring/Idempotents.lean [hunk 2]
```diff
@@ -67,6 +67,14 @@ theorem one_sub {p : R} (h : IsIdempotentElem p) : IsIdempotentElem (1 - p) := b
...
+  rw [mul_sub, mul_one, h.eq, sub_self]
+
+@[simp]
+theorem one_sub_mul_self {p : R} (h : IsIdempotentElem p ) : (1 - p) * p = 0 := by
```
Comment (loefflerd) [inline Mathlib/Algebra/Ring/Idempotents.lean:75]:
```suggestion
theorem one_sub_mul_self {p : R} (h : IsIdempotentElem p) : (1 - p) * p = 0 := by
```

**Review by loefflerd — APPROVED** [review]
LGTM, just a couple of minor formatting nits.

maintainer delegate

**Comment by alreadydone** [comment]
I've built a Boolean algebra out of idempotents in #20533. Potentially useful to you?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by mans0954** [comment]
> I've built a Boolean algebra out of idempotents in ~#20533~ #20618. Potentially useful to you? Looks like you've previously built [IsLprojection.Subtype.BooleanAlgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/MStructure.html#IsLprojection.Subtype.BooleanAlgebra) 😄 Should it be made a BooleanSubalgebra? (Update: oh I realized #20618 doesn't apply here because the ring isn't commutative (but the L-projections do commute with each other).)

I think it's still possible to engineer the situation you describe. Let `X` be a module over a ring `M` and let `ℙᴸ[M](X)` be the L-projections. Let `N` be the commutant of `ℙᴸ[M](X)` in `N` and let `Z` be the centre of `N`. Then `ℙᴸ[M](X)` is a Boolean subalgebra of the Boolean algebra of idempotents of `Z`.

This may not be entirely artificial - when `X` is a complex Banach Space, `N` would contain all of the Hermitian operators.

This raises some questions like "When do the Hermitian operators generate `N`?` and "Are all projections in `Z` L-projections?" which I don't immediately know the answer to.
